data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_130432_1,[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:6](/[N:5]([H:9])[H:10])[H:13])([N:4]([H:7])[H:8])([H:11])[H:12]>>[C:1](=[C:3]([C:2]([H:14])([H:15])[H:16])[C:6]([N:4]([H:7])[H:8])([N:5]([H:9])[H:10])[H:13])([H:11])[H:12],61.88530499998592
MR_597445_0,[C:1]([N:2]([C:3]([O:6][H:9])=[O:7])[C:4]([N:5]([H:10])[H:11])=[O:8])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:3](\[O:6][H:9])[O:7][C:4]([N:5]([H:10])[H:11])=[O:8])([H:12])([H:13])[H:14],53.75604250000052
MR_139319_1,[C:1]([N:2]([H:8])[H:9])([N:5][C:3]([O:4][H:7])[H:10])=[O:6]>>[C:1]1([N:2]([H:8])[H:9])=[N:5][C@:3]([O:4][H:7])([H:10])[O:6]1,36.53995250002183
MR_555687_1,[C:1]([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:17])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]/[N:7]([H:11])[H:12])([N:8]([H:13])[H:14])[H:10]>>[C:1]([C:4]([H:21])([H:22])[H:23])([N:8]([H:13])[H:14])([N:9](/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:5]/[C:2]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12])[H:10],50.44284249998327
MR_285383_0,[C:1]1([C:4]([H:12])([H:13])[H:14])([C:6]([C:5]([H:15])([H:16])[H:17])=[O:7])[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11]>>[C:1]1([C:4]([H:12])([H:13])[H:14])=[C:6]([C:5]([H:15])([H:16])[H:17])[O:7][C:3]([H:10])([H:11])[C:2]1([H:8])[H:9],52.78718249998548
MR_241155_0,[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])([C:4]([O:7][H:10])=[O:8])[C:5]([N:6]([H:11])[H:12])=[O:9]>>[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])=[C:5]([N:6]([H:11])[H:12])[O:9][C:4]([O:7][H:10])=[O:8],67.24164500001677
MR_541882_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3](/[C:4]([N:5]([H:10])[H:11])=[N:7]/[H:14])=[O:8])([N:6]([H:12])[H:13])[H:9]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3](=[O:8])[H:9])(/[C:4]([N:5]([H:10])[H:11])=[N:7]/[H:14])[N:6]([H:12])[H:13],35.19835749998478
MR_632044_0,[N:1]([C:2]([O:5][H:8])=[O:6])([N:3]([H:9])[H:10])[O:4][H:7]>>[N:1]([C:2]([O:4][H:7])=[O:6])([N:3]([H:9])[H:10])[O:5][H:8],22.059762499984146
MR_213308_0,[C:1]([C:2]([C:5]([H:17])([H:18])[H:19])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:6][O:7][H:8]>>[C:1]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])([O:6][C:2]([C:5]([H:17])([H:18])[H:19])([H:9])[H:10])[O:7][H:8],59.7505499999896
MR_677198_2,[N:1]([C:2](/[N:5]=[N:6]/[H:11])=[N:7]/[H:12])([N:3]([H:9])[H:10])[O:4][H:8]>>[N:1](/[C:2]([O:4][H:8])=[N:7]\[H:12])([N:3]([H:9])[H:10])/[N:5]=[N:6]/[H:11],33.63650999996878
MR_418003_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])([N:5]([N:6]([C:2]([H:11])([H:12])[H:13])[H:9])[O:7][H:8])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])([N:6]([N:5]([C:2]([H:11])([H:12])[H:13])[O:7][H:8])[H:9])[H:10],11.631967499987894
MR_135834_0,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([O:6][H:7])[H:8])([O:5][N:4]([H:10])[H:11])[H:9]>>[C@@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([O:5][N:4]([H:10])[H:11])[H:8])([O:6][H:7])[H:9],63.71133000001265
MR_90018_1,[C:1]([N:3]([N:4]([H:9])[H:10])[O:6][H:8])(/[N:7]=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:3]([N:4]([H:9])[H:10])[N:7]1[C@@:5]([C:2]([H:14])([H:15])[H:16])([O:6][H:8])[H:13],40.9155099999964
MR_409652_2,[C:1](/[C:4](=[C:3](\[O:6][C:2](=[C:5]([H:11])[H:12])[O:7][H:8])[H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1](/[C:4](=[C:3](\[C:5]([C:2](=[O:6])[O:7][H:8])([H:11])[H:12])[H:9])[H:10])([H:13])([H:14])[H:15],57.262512500029175
MR_96607_1,[N:1](=[C:5](/[C:4]([C:3](=[O:7])[H:11])([O:6][N:2]([H:9])[H:10])[H:12])[H:13])\[H:8]>>[N:1]([C:3](=[O:7])[H:11])(/[C:5](=[C:4](\[O:6][N:2]([H:9])[H:10])[H:12])[H:13])[H:8],52.00657250003019
MR_207346_0,[N:1](/[N:3]=[N:4]/[N:2]([H:5])[H:6])([H:7])[H:8]>>[N:1](=[N:3]/[N:4]([N:2]([H:5])[H:6])[H:8])\[H:7],49.07552000001118
MR_588189_0,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([H:9])[H:10])([O:5][O:6][C:2]([H:11])([H:12])[H:13])[O:7][H:8]>>[C:1]([C:3]([H:14])([H:15])[H:16])([O:5][N:4]([H:9])[H:10])([O:6][C:2]([H:11])([H:12])[H:13])[O:7][H:8],56.91425000005239
MR_118919_0,[C:1]1([C:2]([C:4]([O:6][H:10])([H:11])[H:12])=[O:8])([O:7][H:9])[C:3]([H:13])([H:14])[O:5]1>>[C:1]1([C:2]2([O:8][H:10])[C:4]([H:11])([H:12])[O:6]2)([O:7][H:9])[C:3]([H:13])([H:14])[O:5]1,53.36950250001337
MR_342521_1,[C:1]([C:2]([H:15])([H:17])[H:18])([C:3]([H:16])([H:19])[H:20])([N:4](/[C:5]([N:7]([H:13])[H:14])=[N:8]/[N:6]([H:11])[H:12])[H:9])[H:10]>>[C:1]([C:2]([H:15])([H:17])[H:18])([C:3]([H:16])([H:19])[H:20])([N:8](/[C:5](=[N:4]/[H:9])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])[H:10],66.47483999999096
MR_22782_1,[C:1](\[C:2]([C:4]([N:5]([H:9])[H:10])([O:7][H:12])[H:8])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])=[N:6]/[H:11]>>[C:1]([C:2]([C:4]([N:5]([H:9])[H:10])=[O:7])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:6]([H:11])[H:12])[H:8],45.80812750002096
MR_26100_1,[C:1]1([H:9])([H:10])[C:5]2([N:4]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[C:6]1([H:11])[N:8]=[N:7]2>>[C:1]1([H:9])([H:10])[C:5]([N:4]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])=[N:7][N:8]=[C:6]1[H:11],11.884222500028727
